US05308841
Dissolve Nα -(carbobenzyloxy)-β-(amino)-L-alanine, methyl ester (2.27 mmol) in anhydrous tetrahydrofuran (15 mL). Treat with pyridine (183 μL, 2.27 mmol) followed by trifluoroacetic anhydride (321 μL, 2.27 mmol) and stir at ambient temperature for 1 hours. Add additional pyridine (180 μL) and trifluoroacetic anhydride (320 μL). Allow to stand overnight, partition between ethyl eter and water. Separate the organic phase, dry (MgSO4) and evaporate the solvent in vacuo to give Nα -(carbobenzyloxy)-β-(trifluoroacetyl)-L-alanine, methyl ester.

reactant | Nα -(carbobenzyloxy)-β-(amino)-L-alanine, methyl ester | 2.27 mmol | C(=O)(OCC1=CC=CC=C1)N[C@@H](CN)C(=O)OC | C12H16N2O4
reactant | pyridine | 2.27 mmol, 183 μL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.27 mmol, 321 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 180 μL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 320 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Nα -(carbobenzyloxy)-β-(trifluoroacetyl)-L-alanine, methyl ester | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C(F)(F)F)=O)C(=O)OC | C14H14F3NO5
